US04957912
The product of Step E can also be prepared by dissolving 1-(benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-(methylthio)-2-azetidinone (0.44 g.) in methylene chloride (10 ml.) and treating with chlorine (0.110 g.) in methylene chloride (2.0 ml.). The mixture is allowed to stand for 10 minutes at room temperature. The solvent is removed under reduced pressure to afford the 1-(benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-chloro-2-azetidinone as described in Step E.

reactant | 1-(benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-(methylthio)-2-azetidinone | 0.44 g | C(C1=CC=CC=C1)OC(=O)CCOP(=O)(OCC)CN1C(C(C1SC)N=[N+]=[N-])=O | C17H23N4O6PS
reactant | chlorine | 0.110 g | ClCl | Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 1-(benzyloxycarbonyldiethylphosphono)methyl-3-azido-4-chloro-2-azetidinone | C(C1=CC=CC=C1)OC(=O)CCOP(=O)(OCC)CN1C(C(C1Cl)N=[N+]=[N-])=O | C16H20ClN4O6P
